US07402592B2
6-(3-pyridinyl)-3-azabicyclo[3.2.1]oct-6-ene
To ethyl 6-hydroxy-6-(3-pyridinyl)-3-azabicyclo[3.2.1]octane-3-carboxylate (1.10 g, 4.0 mmol) was added thionyl chloride (5 ml) and the mixture was heated to reflux for 1 h under nitrogen. Thionyl chloride was removed by azeotropic rotary evaporation with toluene to give a dark brown oil, which was suspended in a 20% solution of potassium hydroxide in ethanol (10 ml) and refluxed for 18 h. The reaction mixture was cooled to room temperature and concentrated by rotary evaporation. Then saturated sodium chloride solution (10 ml) was added. The mixture was filtered. The collected solids were washed with chloroform (25 ml), and the filtrate was extracted with chloroform (3×25 ml). The combined chloroform extracts were dried over sodium sulfate, filtered, concentrated by rotary evaporation, and distilled on a Kugelrohr apparatus to yield a light brown oil (350 mg, 47%).

reactant | ethyl 6-hydroxy-6-(3-pyridinyl)-3-azabicyclo[3.2.1]octane-3-carboxylate | 4.0 mmol, 1.10 g | OC1(C2CN(CC(C1)C2)C(=O)OCC)C=2C=NC=CC2 | C15H20N2O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-(3-pyridinyl)-3-azabicyclo[3.2.1]oct-6-ene | 350 mg, 47% | N1=CC(=CC=C1)C=1C2CNCC(C1)C2 | C12H14N2
